US07750161B2
A12.3. 4-Phenyl-piperidine-4-carboxylic acid benzyl-methyl-amide
A mixture of 4-(benzyl-methyl-carbamoyl)-4-phenyl-piperidine-1-carboxylic acid benzyl ester (4.4 g, 10 mmol) and Pd—C (10%, 400 mg) in MeOH (200 mL) is hydrogenated at r.t. and atmospheric pressure for 3 h. The mixture is filtered and evaporated. The residue is purified by reversed phase MPLC to provide the title compound.

reactant | 4-(benzyl-methyl-carbamoyl)-4-phenyl-piperidine-1-carboxylic acid benzyl ester | 10 mmol, 4.4 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)(C1=CC=CC=C1)C(N(C)CC1=CC=CC=C1)=O | C28H30N2O3
solvent | MeOH | 200 mL | CO | CH4O
catalyst | Pd—C | 400 mg | [Pd] | Pd
product | 4-Phenyl-piperidine-4-carboxylic acid benzyl-methyl-amide | C(C1=CC=CC=C1)N(C(=O)C1(CCNCC1)C1=CC=CC=C1)C | C20H24N2O
